US07572820B2
B. Ethyl 4-chloro-1-(2,2,2-trifluoroethyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-indole-2-carboxylate
To an ice-cold mixture of ethyl 4-chloro-5-hydroxy-1-(2,2,2-trifluoroethyl)-1H-indole-2-carboxylate (1.43 g, 4.43 mmol) and pyridine (0.53 g, 6.65 mmol) in CH2Cl2 (45 mL) was added triflic anhydride (1.38 g, 4.88 mmol) dropwise. The mixture was then stirred at rt. After 1 h, additional pyridine (0.1 g, 1.3 mmol) and triflic anhydride (0.5 g. 1.78 mmol) were added and stirring was continued at rt for 15 h. Additional pyridine (0.089 g, 1.1 mmol) and triflic anhydride (0.31 g, 1.1 mmol) were added and stirring was continued for another 1 h. The mixture was concentrated in vacuo and the residue was partitioned between EtOAc and 0.2N HCl. The organic phase was washed with 0.2N HCl and sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (0-25% EtOAc-hexanes gradient) to afford the title compound (1.44 g, 72% yield): MS (ES) m/z 454 (M+1).

reactant | ethyl 4-chloro-5-hydroxy-1-(2,2,2-trifluoroethyl)-1H-indole-2-carboxylate | 4.43 mmol, 1.43 g | ClC1=C2C=C(N(C2=CC=C1O)CC(F)(F)F)C(=O)OCC | C13H11ClF3NO3
reactant | pyridine | 6.65 mmol, 0.53 g | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 4.88 mmol, 1.38 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | pyridine | 1.3 mmol, 0.1 g | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 1.78 mmol, 0.5 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | pyridine | 1.1 mmol, 0.089 g | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 1.1 mmol, 0.31 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-chloro-1-(2,2,2-trifluoroethyl)-5-{[(trifluoromethyl)sulfonyl]oxy}-1H-indole-2-carboxylate | 1.44 g, 72% yield | ClC1=C2C=C(N(C2=CC=C1OS(=O)(=O)C(F)(F)F)CC(F)(F)F)C(=O)OCC | C14H10ClF6NO5S
